US04124704
A solution of 86.6 g. (0.30 mole) of 7-bromo-5-methyl-3-phenylbenzofuran in 600 ml. of dichloromethane is treated dropwise over 45 minutes with 47.9 g. (0.30 mole) of bromine. After stirring one additional hour, the mixture is washed once with water (300 ml.) and thrice with 300 ml. portions of saturated sodium bicarbonate solution, dried, then evaporated to provide 2,7-dibromo-5-methyl-3-phenylbenzofuran as an oil which crystallizes from hexane.

reactant | 7-bromo-5-methyl-3-phenylbenzofuran | 0.30 mole | BrC1=CC(=CC=2C(=COC21)C2=CC=CC=C2)C | C15H11BrO
reactant | bromine | 0.30 mole | BrBr | Br2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,7-dibromo-5-methyl-3-phenylbenzofuran | BrC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2Br)C | C15H10Br2O
